US05827883
1.43 g (4.58 mmol) of (S)-1-[(1S,3aR,4S,7aR)-4-(tert-Butyldimethyl-silanyloxy)7a-methyl-octahydro-inden-1-yl]ethanol was dissolved in 15 ml pyridine and cooled to 0° C. 420 μl of POCl3 were added slowly. The reaction mixture was stirred at room temperature overnight then poured into a buffer at pH 4, extracted with n-hexane. The organic solution was washed with brine, dried over sodium sulfate and evaporated to dryness. The residue was purified by column chromatography (eluent: n-hexane) to yield 516 mg (39%) of (E)-(3aR,4S,7aS)-4-(tert-Butyl-dimethyl-silanyloxy)-1-ethylidene-7a-methyl-octahydro-indene (E)-(3aR,4S,7aS)-4-(tert-Butyldimethyl-silanyloxy)-1-ethylidene-7a-methyl-octahydro-indene as a colourless oil.

reactant | (S)-1-[(1S,3aR,4S,7aR)-4-(tert-Butyldimethyl-silanyloxy)7a-methyl-octahydro-inden-1-yl]ethanol | 4.58 mmol, 1.43 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@H](C)O)(C)C | C18H36O2Si
reactant | POCl3 | 420 μl | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | (E)-(3aR,4S,7aS)-4-(tert-Butyl-dimethyl-silanyloxy)-1-ethylidene-7a-methyl-octahydro-indene (E)-(3aR,4S,7aS)-4-(tert-Butyldimethyl-silanyloxy)-1-ethylidene-7a-methyl-octahydro-indene | 516 mg, 39% | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC\C(\[C@]2(CCC1)C)=C/C)(C)C.C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CC\C(\[C@]2(CCC1)C)=C/C)(C)C | 2C18H34OSi
